US04096267
Step C: [1-Oxo-2-(4-fluorophenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid
A stirred mixture of 2-(4-fluorophenyl)-2-methyl-5-hydroxy-6,7-dichloro-1-indanone (1.04 g., 0.0032 mole), potassium carbonate (0.885 g., 0.0064 mole) and ethyl bromoacetate (1.07 g., 0.0064 mole) in dimethylformamide (30 ml.) is warmed at 55°-60° C. for 3 hours, then treated with water (30 ml.)-10N sodium hydroxide solution (1 ml., 0.01 mole) and heated at 80° C. for one hour. The reaction mixture is added slowly to water (500 ml.) -12N hydrochloric acid (10 ml.) to precipitate 450 mg. of [1-oxo-2-(4-fluorophenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid which melts at 150°-156° C. after crystallization form ethyl acetate:hexane, 1:3.

reactant | 2-(4-fluorophenyl)-2-methyl-5-hydroxy-6,7-dichloro-1-indanone | 0.0032 mole, 1.04 g | FC1=CC=C(C=C1)C1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)C | C16H11Cl2FO2
reactant | potassium carbonate | 0.0064 mole, 0.885 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.0064 mole, 1.07 g | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydroxide | 0.01 mole, 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | water | -12N, 500 ml | O | H2O
solvent | water | -10N, 30 ml | O | H2O
product | [1-Oxo-2-(4-fluorophenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C)C1=CC=C(C=C1)F | C18H13Cl2FO4
